US07365066B2
8-Fluoro-4-methyl-quinoline
Add H2SO4 (14.4 mL, 270 mmol) to a solution of 2-fluoroaniline (20.0 g, 180 mmol) in 1,4-dioxane (1 L) at room temperature. Heat the mixture to reflux and add methyl vinyl ketone (19.5 mL, 270 mmol) in 1,4-dioxane (50 mL) dropwise over 3 hours. Continue to heat for 1 hour after the addition, then remove the solvent under vacuum. Dissolve the residue in water (100 mL), neutralize with Na2CO3 and extract with CH2Cl2. Wash the combined organic extracts with water and brine, dry with anhydrous Na2SO4 and filter the mixture. Concentrate the filtrate; chromatograph the residue with silica gel (elute with 20% EtOAc in hexanes) to give the title compound 12 g (41%) as a yellowish solid.

reactant | H2SO4 | 270 mmol, 14.4 mL | OS(=O)(=O)O | H2O4S
reactant | 2-fluoroaniline | 180 mmol, 20.0 g | FC1=C(N)C=CC=C1 | C6H6FN
reactant | methyl vinyl ketone | 270 mmol, 19.5 mL | C(=C)C(=O)C | C4H6O
solvent | 1,4-dioxane | 1 L | O1CCOCC1 | C4H8O2
solvent | 1,4-dioxane | 50 mL | O1CCOCC1 | C4H8O2
product | 8-Fluoro-4-methyl-quinoline | 12 g, 41% | FC=1C=CC=C2C(=CC=NC12)C | C10H8FN
